US05633248
5-Amino-4,4-diphenylpentanol
To a stirred solution of ethyl 4-cyano-4,4-diphenylbutyrate (1.2 g) in tetrahydrofuran (30 ml) was added lithium aluminum hydride (0.44 g) in small portion under ice-cooling. After completion of dropwise addition, the mixture was heated and stirred at 60° C. for 3 hours. The reaction mixture was then cooled with ice again, and water (1 ml), 15% aqueous sodium hydroxide (3 ml) and water (1 ml) were added in succession. The insoluble matter that had separated out was filtered off and the filtrate was extracted with ethyl acetate and saturated aqueous sodium hydrogen carbonate. The organic layer was taken, washed with water, dried over anhydrous sodium sulfate, and concentrated to dryness. The group was washed with isopropyl ether to provide the title compound (0.82 g) as colorless powder.

reactant | ethyl 4-cyano-4,4-diphenylbutyrate | 1.2 g | C(#N)C(CCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H19NO2
reactant | lithium aluminum hydride | 0.44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-Amino-4,4-diphenylpentanol | 0.82 g | NCC(CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H21NO
